US04290971
N-(2,6-dichlorophenyl)-N'-acetyl-S-benzyl-isothiourea
5.2 g (0.02 M) of N-(2,6-dichlorophenyl)-N'-acetyl-thiourea, 1.7 g of (0.012 M) of ground potassium carbonate 2.6 ml (0.024 M) of benzylchloride and 80 ml of acetone are boiled in a reflux being energetically shaken for 4 hours. The acetone is distilled off. The product in the flask is washed with water and is filtered. After drying N-(2,6-dichlorophenyl)-N'-acetyl-S-benzylisothiourea is obtained with a melting point of 84°-95° C. After being recrystallized twice from ethanol it has a melting point of 99°-101° C., whereby 1.7 g are isolated (24% of the theoretical yield).

reactant | N-(2,6-dichlorophenyl)-N'-acetyl-thiourea | 0.02 M, 5.2 g | ClC1=C(C(=CC=C1)Cl)NC(=S)NC(C)=O | C9H8Cl2N2OS
reactant | potassium carbonate | 0.024 M, 2.6 ml | C([O-])([O-])=O.[K+].[K+]
reactant | benzylchloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | N-(2,6-dichlorophenyl)-N'-acetyl-S-benzyl-isothiourea | ClC1=C(C(=CC=C1)Cl)NC(SCC1=CC=CC=C1)=NC(C)=O | C16H14Cl2N2OS
